US07691881B2
5(1) Ethyl 5-fluoro-1-isopropyl-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylate
A mixture of ethyl 1-isopropyl-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylate as prepared in Example 1(5) (2.23 g, 10.0 mmol) and 1-(chloromethyl)-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) (3.76 g, 10.6 mmol) in acetonitrile (80 mL) was stirred at room temperature for 16 h. The mixture was quenched with water (300 mL), and extracted with ethyl acetate (100 mL×4). The combined organic layers were washed with water (100 mL×6), brine (100 mL), dried over magnesium sulfate and concentrated in vacuo. The residue was chromatographed on a column of silica gel eluting with n-hexane/ethyl acetate (v/v=2/1˜1/1) to give 572 mg (24%) of the title compound as a yellow solid.

reactant | ethyl 1-isopropyl-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylate | C(C)(C)N1C(C(=CC=C1C)C(=O)OCC)=O | C12H17NO3
reactant | 1-(chloromethyl)-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) | 10.6 mmol, 3.76 g | F[B-](F)(F)F.F[B-](F)(F)F.ClC[N+]12CC[N+](CC1)(CC2)F
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
product | Ethyl 5-fluoro-1-isopropyl-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylate | 572 mg, 24% | FC=1C=C(C(N(C1C)C(C)C)=O)C(=O)OCC | C12H16FNO3
